US07214689B2
Step A: Ethyl 5-cyano-5-(3-methoxyphenyl)pentanoate
Two grams of (3-methoxyphenyl)acetonitrile and 1.5 ml of ethyl 4-bromobutyrate are dissolved in 50 ml of dimethylformamide at 0° C. Six hundred milligrams of 60% sodium hydride (600 mg; 15 mmol) are progressively added to the solution. The reaction mixture is stirred at ambient temperature for 4 hours, taken up in 100 ml of acidic water and extracted with ether. The organic phase is then dried over magnesium sulphate, filtered and evaporated under reduced pressure. The oil obtained is purified on a column (eluant:ether/cyclohexane 4/6) to yield the title product in the form of a yellow oil.

reactant | (3-methoxyphenyl)acetonitrile | Two grams | COC=1C=C(C=CC1)CC#N | C9H9NO
reactant | ethyl 4-bromobutyrate | 1.5 ml | BrCCCC(=O)OCC | C6H11BrO2
reactant | sodium hydride | 15 mmol, Six hundred milligrams | [H-].[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | Ethyl 5-cyano-5-(3-methoxyphenyl)pentanoate | C(#N)C(CCCC(=O)OCC)C1=CC(=CC=C1)OC | C15H19NO3
